Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ G3P1 with known fibroid uterus transferred from ___ 
for heavy vaginal bleeding.  Pt initially presented ___ yrs ago 
with heavy vaginal bleeding after having skipped a period. Full 
w/u including pelvic ultrasound, D+C revealed multi-fibroid 
uterus.  She was treated with course of provera with return to 
normal menses.  Review of records reveals that pt underwent
endometrial biopsy on ___, path returned proliferative 
endometrium.  Pt also had hysteroscopy at that visit, revealing 
lesion appearing to arise from the L side of the uterus filling 
most of the cavity.
   
Early Novemeber pt skipped period again.  She began bleeding end 
of ___, and this period has not stopped.  Bleeding heaviest 
the past two days.  She reports changing super tampon and 2 pads 
every hour.  Endorses weakness and presyncope but denies any 
syncopal episodes.  Denies headache, N/V, SOB, chest pain.    

ROS: per above otherwise 12 point review of systems neg

 
Past Medical History:
OBHx: G3P1021
- SVD x 1
- TAB x 2 (both with D+C)

GynHx:
- menarche age ___ q monthly x 7 days
- reports hx of dysmenorrhea, menorrhagia
- denies hx of abnormal Paps, uncertain date of last Pap
- denies history of STIs, endometriosis, ovarian cysts
- currently sexually active with husband
- contraception: condoms 

PMHx: HTN
PSHx: D+C x 3

 
Social History:
___
Family History:
Denies family hx of uterine fibroids, bleeding, or clotting 
disorders.  Mom through menopause at age ___.
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 07:00PM   WBC-8.1 RBC-3.05* HGB-9.2* HCT-27.2* MCV-89 
MCH-30.2 MCHC-33.8 RDW-14.7 RDWSD-47.3*
___ 07:00PM   PLT COUNT-224
___ 01:15PM   WBC-8.9 RBC-3.06* HGB-9.0* HCT-27.8* MCV-91 
MCH-29.4 MCHC-32.4 RDW-14.6 RDWSD-48.3*
___ 01:15PM   PLT COUNT-280
___ 01:15PM   ___
 
Brief Hospital Course:
Ms. ___ was admitted to the Gynecology service in the setting 
of heavy vaginal bleeding. The patient was transferred to the 
___ emergency room from ___ with symptomatic anemia, 
secondary to menorrhagia. 

She was admitted to the floor without issue and was transfused a 
total of 3 units of packed red blood cells (between ___ 
and ___, to achieve adequate resuscitation. Her hematocrit 
responded appropriately and her symptoms improved. She denied 
pain and was tolerating a regular diet without issue. She was 
voiding spontaneously throughout her admission. 

Her menorrhagia was felt to be multifactorial, etiology 
including a likely fibroid uterus and anovulatory dysfunction. 
She received Provera 10mg BID and underwent careful monitoring 
with Pad counts and strict I/O's. She did not require a dilation 
and curettage procedure during this admission, given improvement 
in bleeding and symptoms. She will plan to undergo an 
endometrial biopsy as an outpatient.

The patient was stabilized by hospital day 2 and was appropriate 
for discharge home with close follow up care.

 
Medications on Admission:
lisinopril-hydrochlorithiazide ___ 
clonazepam 0.5mg prn

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
Do not exceed more than 4gm acetaminophen in 24 hrs 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q6h prn Disp 
#*40 Tablet Refills:*0
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. MedroxyPROGESTERone Acetate 10 mg PO BID 
RX *medroxyprogesterone 10 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0
5. Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*5
6. Docusate Sodium 100 mg PO BID 
Take while taking iron to prevent constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*5

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Menorrhagia with blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for heavy vaginal 
bleeding. You have recovered well and the team believes you are 
ready to be discharged home. Please call ___ Ob/Gyn with any 
questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Take a stool softener such as colace while taking iron to 
prevent constipation.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___